US05364844
(2S, 4S, 5S)-5-(t-Butoxycarbonylamino)-4-hydroxy-2-(1-hydroxy-1-methylethyl)-7-methyl-N-[2(RS)-methylbutyl]octanamide
Following a procedure similar to that described in Preparation 7, 250 mg (0.76 mmoles) of (3S, 5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-3-methylbutyl]-3-(1-hydroxy-1-methylethyl)dihydrofuran-2(3H)-one (prepared as described in Preparation 9) were dissolved in 500 mg (5.75 mmoles) of 2(RS)-methylbutylamine, and the solution was stirred at 100° C. for 3 hours. The reaction mixture was then concentrated by evaporation under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (using a 20:1 by volume mixture of methylene chloride and methanol as eluent). to give 270 mg (yield 85%) of the title compound as an amorphous substance.

reactant | (3S, 5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-3-methylbutyl]-3-(1-hydroxy-1-methylethyl)dihydrofuran-2(3H)-one | 0.76 mmoles, 250 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)[C@@H]1C[C@H](C(O1)=O)C(C)(C)O | C17H31NO5
reactant | 2(RS)-methylbutylamine | 5.75 mmoles, 500 mg | CC(CN)CC | C5H13N
product | (2S, 4S, 5S)-5-(t-Butoxycarbonylamino)-4-hydroxy-2-(1-hydroxy-1-methylethyl)-7-methyl-N-[2(RS)-methylbutyl]octanamide | 270 mg, yield 85% | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCC(CC)C)C(C)(C)O)O)CC(C)C | C22H44N2O5
